US07462611B2
a) 1H-Pyrrole-2-carboxylic acid allyl ester
To a solution of 1H-pyrrole-2-carboxylic acid (1.5 g, 14 mmol) in N,N-dimethylformamide (50 mL) at 25° C. was added cesium carbonate (4.8 g, 14.7 mmol) and allyl bromide (1.34 mL, 15.4 mmol) and stirred for 16 h. The reaction mixture was treated with saturated aqueous ammonium chloride solution and diethyl ether (20 mL). The layers were separated and the aqueous layers were extracted with diethyl ether (3×100 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo to afford the crude desired product, 1H-pyrrole-2-carboxylic acid allyl ester (1.6 g, 10.6 mmol, 76% yield) as a yellow oil, which was used in the next step without further purification. 1H NMR (400 MHz, CDCl3) δ 4.77 (1H, m), 5.35 (1H, dd, J1=10.4 Hz, J2=1.2 Hz), 5.39 (1H, dd, J1=16.8 Hz, J2=1.6 Hz), 6.26 (1H, m), 5.96 (1H, m), 6.94 (2H, m), 9.2 (1H, bs).

reactant | 1H-pyrrole-2-carboxylic acid | 14 mmol, 1.5 g | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | cesium carbonate | 14.7 mmol, 4.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | allyl bromide | 15.4 mmol, 1.34 mL | C(C=C)Br | C3H5Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 1H-pyrrole-2-carboxylic acid allyl ester | 10.6 mmol, 1.6 g, 76% yield | C(C=C)OC(=O)C=1NC=CC1 | C8H9NO2
